US08440705B2
Preparation of 3-(2-Oxo-2,3,4,6,7,8-hexahydro-1H-cyclopenta[g]quinolin-4-yl)-benzonitrile
A mixture of 4-(3-Bromo-phenyl)-1,3,4,6,7,8-hexahydro-cyclopenta[g]quinolin-2-one (160 mg, 0.47 mmol) and cuprous cyanide (50.3 mg, 0.56 mmol) in N,N′-dimethylpropyleneurea was heated at 195° C. for 14 hr under an atmosphere of argon. Water was added and the product extracted with ethyl acetate. The product (12 mg) was purified by flash chromatography on silica gel (eluent, hexane:ethyl acetate, 8:2, 7:3, 6:4) followed by reverse phase HPLC (water-acetonitrile gradient, 0.05% trifluoroacetic acid, 70:30 to 10:90, 20 min, linear gradient; flow, 15 ml/min; column, Phenomenex Luna 5μ C18, 100×21.2 mm; UV 254 and 218 nm).

reactant | 4-(3-Bromo-phenyl)-1,3,4,6,7,8-hexahydro-cyclopenta[g]quinolin-2-one | 0.47 mmol, 160 mg | BrC=1C=C(C=CC1)C1CC(NC2=CC3=C(C=C12)CCC3)=O | C18H16BrNO
reactant | Water | O | H2O
reactant | N,N′-dimethylpropyleneurea | CN1CCCN(C1=O)C | C6H12N2O
product | 3-(2-Oxo-2,3,4,6,7,8-hexahydro-1H-cyclopenta[g]quinolin-4-yl)-benzonitrile | O=C1NC2=CC3=C(C=C2C(C1)C=1C=C(C#N)C=CC1)CCC3 | C19H16N2O
